data/oMe_Silver.jsonl
{"reaction_id": "NR-338_1-C1CCCCC1_2-C1CCCCC1_3-C(C)C_4-c1ccc(C)cc1_5-c1cc(Cl)cc(c1)","level": "medium","name": "Rubottom Oxidation","reactants_smiles": ["C(=C(C1CCCCC1)C(C)C)(C1CCCCC1)O[Si](c1ccc(C)cc1)(c1ccc(C)cc1)c1ccc(C)cc1","O=C(OO)c1cc(Cl)cc(c1)"],"products_smiles": ["C(=O)(C(O[Si](c1ccc(C)cc1)(c1ccc(C)cc1)c1ccc(C)cc1)(C1CCCCC1)C(C)C)C1CCCCC1"],"conditions": "","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C1(O[Si](c1ccc(C)cc1)(c1ccc(C)cc1)c1ccc(C)cc1)(C1CCCCC1)C(C1CCCCC1)(C(C)C)O1","step_weight": 0,"rationale": "The electron-rich alkene of the silyl enol ether attacks the electrophilic peracid oxygen, favored by π-electron donation from the oxygen substituent and the strong electrophilicity of the peracid's terminal oxygen."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=[O+][Si](c1ccc(C)cc1)(c1ccc(C)cc1)c1ccc(C)cc1)(C1CCCCC1)C([O-])(C1CCCCC1)C(C)C","step_weight": 0,"rationale": "The 1,2-shift of the silyl group is driven by the stability of the silicon–oxygen bond and the ability of silicon to stabilize positive charge via hyperconjugation and empty d-orbital participation."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(=O)(C(O[Si](c1ccc(C)cc1)(c1ccc(C)cc1)c1ccc(C)cc1)(C1CCCCC1)C(C)C)C1CCCCC1","step_weight": 0,"rationale": "Nucleophilic attack by the oxygen displaces the leaving group, restoring the carbonyl; silicon’s strong affinity for oxygen makes the silyloxy group stable in the product."}],"description": "The silyl enol ether undergoes electrophilic addition with the peracid to form a dioxirane-like intermediate. A 1,2-shift transfers the silyl group with concurrent oxygen insertion, driven by stabilization of the developing positive charge. Finally, nucleophilic substitution regenerates the carbonyl, yielding the α-silyloxy ketone."}
